US07160882B2
1-(2-{1-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-cyclopropyl}-ethyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
1-(2-{1-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-cyclopropyl}-ethyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-ol 590 mg (1.06 mmol) 1-(2-{1-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxy-ethylamino]-cyclopropyl}-ethyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one are dissolved in 30 mL methanol and hydrogenated in the presence of palladium on charcoal (10%) at ambient temperature and 3 bar hydrogen pressure. Yield: 180 mg (36%); mass spectroscopy: [M+H]+=468.

reactant | 1-(2-{1-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-cyclopropyl}-ethyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-ol | 1.06 mmol, 590 mg | OC(CNC1(CC1)CCN1C(OC(C2=C1C=CC=C2)(C)C)O)C2=CC(=CC=1NC(COC12)=O)O | C25H31N3O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-(2-{1-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-cyclopropyl}-ethyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | OC(CNC1(CC1)CCN1C(OC(C2=C1C=CC=C2)(C)C)=O)C2=CC(=CC=1NC(COC12)=O)O | C25H29N3O6
